US04990508
In 60 ml of methylene chloride was dissolved 4.00 g of ethyl 4-(2-hydroxymethylcyclopropyl)-2,3,5trifluorobenzoate. To the resulting solution were added 1.62 g of triethylamine and 1.84 g of methanesulfonyl chloride in this order with ice-cooling. The resulting mixture was stirred at room temperature for 2 hours, and 60 ml of water was added to the reaction mixture. The resulting mixture was adjusted to pH 1 with 2N hydrochloric acid. The organic layer was separated, washed with water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was dissolved in 60 ml of N,N-dimethylformamide. To the resulting solution was added 3.42 g of potassium salt of tert-butyl methyliminodicarboxylate with ice-cooling. The resulting mixture was stirred at room temperature for 48 hours. The reaction mixture was added to a mixture of 100 ml of ethyl acetate and 100 ml of water. The resulting mixture was adjusted to pH 1.5 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue obtained was purified by a column chromatography (eluant: toluene/ ethyl acetate=20/1) to obtain 5.22 g (yield: 82.9%) of ethyl 4-[2-(N-tert-butoxycarbonyl-N-methoxycarbonylaminomethyl)cyclopropyl]-2,3,5-trifluorobenzoate.

reactant | ethyl 4-(2-hydroxymethylcyclopropyl)-2,3,5trifluorobenzoate | 4.00 g | OCC1C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C13H13F3O3
reactant | methanesulfonyl chloride | 1.84 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | potassium | 3.42 g | [K] | K
reactant | tert-butyl methyliminodicarboxylate | CN(C(=O)[O-])C(=O)OC(C)(C)C
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 60 ml | O | H2O
solvent | triethylamine | 1.62 g | C(C)N(CC)CC | C6H15N
product | ethyl 4-[2-(N-tert-butoxycarbonyl-N-methoxycarbonylaminomethyl)cyclopropyl]-2,3,5-trifluorobenzoate | 5.22 g, yield: 82.9% | C(C)(C)(C)OC(=O)N(C(=O)OC)CC1C(C1)C1=C(C(=C(C(=O)OCC)C=C1F)F)F | C20H24F3NO6
